US05846995
N-(N,N-Dipropyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)-4-fluorobenzamide hydrochloride
Beginning with 0.072 gm (0.20 mMol) 8-amino-1,2,3,4-tetrahydro-2-dipropylaminodibenzofuran and 0.032 gm (0.20 mMol) 4-fluorobenzoyl chloride, 0.078 gm (87%) of the title compound were recovered as an off-white solid by the procedure described in Example 17.

reactant | 8-amino-1,2,3,4-tetrahydro-2-dipropylaminodibenzofuran | 0.20 mMol, 0.072 gm | NC=1C=CC2=C(C3=C(O2)CCC(C3)N(CCC)CCC)C1 | C18H26N2O
reactant | 4-fluorobenzoyl chloride | 0.20 mMol, 0.032 gm | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | N-(N,N-Dipropyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)-4-fluorobenzamide hydrochloride | 0.078 gm, 87% | Cl.C(CC)N(C1CC2=C(OC3=C2C=C(C=C3)NC(C3=CC=C(C=C3)F)=O)CC1)CCC | InChI=1S/C25H29FN2O2.ClH/c1-3-13-28(14-4-2)20-10-12-24-22(16-20)21-15-19(9-11-23(21)30-24)27-25(29)17-5-7-18(26)8-6-17;/h5-9,11,15,20H,3-4,10,12-14,16H2,1-2H3,(H,27,29);1H
